US09029544B2
(40) (R)-(4-tert-butoxyphenyl)((S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)methanol
Obtained by starting from (R)-(4-tert-butoxyphenyl)((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-ylmethanol and 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane. A 2 M solution of caesium carbonate in water is used instead caesium fluoride. The reaction is run in tetrahydrofurane/toluene 5:1.

reactant | (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-ylmethanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)CO)I | C21H36INO2Si
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | caesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | caesium fluoride | [F-].[Cs+]
solvent | water | O | H2O
solvent | tetrahydrofurane toluene | O1CCCC1.C1(=CC=CC=C1)C
product | (R)-(4-tert-butoxyphenyl)((S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)methanol | C(C)(C)(C)OC1=CC=C(C=C1)[C@@H](O)C=1C(=NC=2CC(C[C@@H](C2C1C=1CCOCC1)O[Si](C)(C)C(C)(C)C)(C)C)C(C)C | C36H55NO4Si
